US04639441
Following the procedure of Example 1(b), a carbon tetrachloride solution containing an equimolar amount of chlorine was added to a solution of p-nitrobenzyl 2-[bis(acetylthio)methylidene]-2-(4-methylthio-2-azetidinon-1-yl)acetate (144 mg, 0.306 mmole) in methylene chloride (2 ml) to give p-nitrobenzyl 2-[bis(acetylthio)methylidene]-2-(4chloro-2-azetidinon-1-yl)acetate. This crude 4-chloroazetidinone derivative was dissolved in methylene chloride (3 ml) and triethylamine (43 μl), and then 135 μl of a 30% methanol solution of methylamine were added thereto, after which the mixture was stirred for 15 minutes. The solvent was distilled off under reduced pressure. The residue was purified by column chromatography (eluent:ethyl acetate) to afford 60 mg of the desired compound.

reactant | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | chlorine | ClCl | Cl2
reactant | p-nitrobenzyl 2-[bis(acetylthio)methylidene]-2-(4-methylthio-2-azetidinon-1-yl)acetate | 0.306 mmole, 144 mg | C(C)(=O)SC(=C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])N1C(CC1SC)=O)SC(C)=O | C18H18N2O7S3
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | p-nitrobenzyl 2-[bis(acetylthio)methylidene]-2-(4chloro-2-azetidinon-1-yl)acetate | C(C)(=O)SC(=C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])N1C(CC1Cl)=O)SC(C)=O | C17H15ClN2O7S2
